US09399640B2
Step 2. 3-[2-(4-Acetylpiperazin-1-yl)ethyl]-5-bromo-4-(cyclobutylmethoxy)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
A solution of 5-bromo-4-(cyclobutylmethoxy)-1-methyl-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one (40.0 mg, 0.0945 mmol) in methylene chloride (2.0 mL) was treated with N,N-diisopropylethylamine (49.4 μL, 0.283 mmol) followed by the addition of acetyl chloride (10.1 μL, 0.142 mmol), and the resultant reaction mixture was stirred at RT for 1 h. Purification by flash column chromatography (5% MeOH/EtOAc) gave the desired product (46 mg, 94%). LCMS calculated for C21H30BrN4O3 (M+H)+: m/z=465.1, 467.1. found: 465.1, 467.1.

reactant | 5-bromo-4-(cyclobutylmethoxy)-1-methyl-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.0945 mmol, 40.0 mg | BrC1=C(C2=C(N(C(N2CCN2CCNCC2)=O)C)C=C1)OCC1CCC1 | C19H27BrN4O2
reactant | N,N-diisopropylethylamine | 0.283 mmol, 49.4 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.142 mmol, 10.1 μL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-(4-Acetylpiperazin-1-yl)ethyl]-5-bromo-4-(cyclobutylmethoxy)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 46 mg, 94% | C(C)(=O)N1CCN(CC1)CCN1C(N(C2=C1C(=C(C=C2)Br)OCC2CCC2)C)=O | C21H29BrN4O3
